US04668815
Into a solution of 0.15 g (0.62 mM) of 2-(3-fluoro-4-ethoxyphenyl)isovaleric acid in 3.0 ml of anhydrous methylene chloride, a catalytic amount of dimethylformamide and 0.16 g (1.37 mM) of thionyl chloride were added, and the mixture was stirred for 2 hours in an oil bath at 40° C. Thereafter, an excess of thionyl chloride and methylene chloride were distilled off from the reaction mixture under a reduced pressure to obtain 2-(3-fluoro-4-ethoxyphenyl)isovaleric chloride as an oily substance.

reactant | 2-(3-fluoro-4-ethoxyphenyl)isovaleric acid | 0.62 mM, 0.15 g | FC=1C=C(C=CC1OCC)C(C(=O)O)C(C)C | C13H17FO3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 1.37 mM, 0.16 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 3.0 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-fluoro-4-ethoxyphenyl)isovaleric chloride | FC=1C=C(C=CC1OCC)C(C(=O)Cl)C(C)C | C13H16ClFO2
